Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Acute ___ in Pain Headache 
 
Major Surgical or Invasive Procedure:
Conventional Angiography 

 
History of Present Illness:
___ with PMH HTN, left breast ca s/p mastectomy who presents 
with
headache with hypertensive emergency and found to have ICH on
imaging.
Patient woke up this morning at 5AM with an ___ headache that
she described as throbbing, bi-frontal, without radiation. She
denies any dizziness, light-headedness, visual changes,
photo-/phonophobia. Reports nausea but no vomiting. She checked
her blood pressure which was in the 200s so she went to the
emergency room. She took a regular strength tylenol, which she
states helped alleviate the pain. She has never had a HA like
this before, and rarely gets headaches. She states her SBPs are
normally in 140, but that her PCP recently added HCTZ to her
anti-hypertensive regimen. At OSH, SBP noted to be in 200s and
patient was started on a nicardipine gtt. CT showed ICH and
patient was transferred to ___ for further management. By the
time I saw patient she was off nicardipine gtt and SBP's were
140s.
 
Past Medical History:
HTN
Breast ca s/p mastectomy ___ (no chemo or radiation therapy)
 
Social History:
___
Family History:
mother with questionable brain disease, not fully clarified 
 
Physical Exam:
PHYSICAL EXAM:
Vitals:
General: Awake, cooperative, NAD.
HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted in
oropharynx.
Cardiac: RRR. Well perfused.
Pulmonary: Breathing comfortably on room air.
Abdomen: Soft, NT/ND.
Extremities: No cyanosis, clubbing, or edema bilaterally. 2+
radial, DP pulses.
Skin: No rashes or other lesions noted.
NEUROLOGIC EXAM:
Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There are no paraphasic errors.
Able to name both high and low frequency objects. Able to read
without difficulty. Speech is not dysarthric. Able to follow 
both
midline and appendicular commands. Able to register 3 objects 
and
recall ___ at 5 minutes. Had good knowledge of current events.
There is no evidence of apraxia or neglect.
Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation and no
extinction.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact to speech.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline and equal strength bilaterally.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L ___ 5 5
R ___ 5 5
-Sensory: No deficits to gross touch throughout. No extinction 
to DSS.
 
Pertinent Results:
___ 08:30AM   GLUCOSE-115* UREA N-26* CREAT-0.8 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-23 ANION GAP-14
___ 08:30AM   CALCIUM-9.7 PHOSPHATE-2.3* MAGNESIUM-1.6
___ 08:30AM   WBC-8.7 RBC-4.51 HGB-13.5 HCT-41.8 MCV-93 
MCH-29.9 MCHC-32.3 RDW-13.2 RDWSD-45.2
___ 08:30AM   NEUTS-65.4 ___ MONOS-8.0 EOS-1.1 
BASOS-0.8 IM ___ AbsNeut-5.68 AbsLymp-2.12 AbsMono-0.70 
AbsEos-0.10 AbsBaso-0.07
___ 08:30AM   PLT COUNT-236
___ 08:30AM   ___ PTT-29.2 ___ year old lady with history of PMH HTN, left breast ca s/p 
mastectomy ___, in remission) who presents with headache with 
hypertensive emergency found to have left parafalcine ICH.

#ICH
Her systolics were to 200 initially. Her neurologic exam was 
normal. CTH showed left cingulate gyrus small ICH. DSA was 
negative for aneurysm. MRI showed likely cavernoma with stable 
hemorrhage. Her headache improved with blood pressure control. 
Aspirin was held and losartan was increased to 150 mg daily 
(from 100 mg daily). She remained stable and was discharged on 
HD 2 with stable neurologic exam. She will need repeat MRI in 
___ months to assess for vascular abnormality. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspir-81 (aspirin) 81 mg oral DAILY 
2. Rosuvastatin Calcium 10 mg PO QPM 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Losartan Potassium 100 mg PO DAILY 

 
Discharge Medications:
1.  Losartan Potassium 150 mg PO DAILY 
RX *losartan 100 mg 1.5 tablet(s) by mouth once a day Disp #*45 
Tablet Refills:*0 
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Rosuvastatin Calcium 10 mg PO QPM  
4. HELD- Aspir-81 (aspirin) 81 mg oral DAILY  This medication 
was held. Do not restart Aspir-81 until told to resume from a 
neurologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Intra-parenchymal Hemorrhage 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ came to the hospital because of headache and high blood 
pressure. While ___ were here we found a small bleed on the left 
side of your brain which is likely due to a "cavernoma" or small 
cluster of blood vessels which ___ were probably born with. ___ 
had a special procedure which showed ___ did not have an 
aneurysm. 

We are changing your medications as follows:
- We are increasing your losartan from 100 mg daily to 150 mg 
daily to better control your blood pressure. This is important 
to prevent further bleeding. 
- We also stopped your aspirin as it can increase your risk of 
bleeding. 

Now that ___ are leaving the hospital we recommend the 
following:
- Please follow-up with your doctors as listed below
- ___ will need to get a repeat MRI of your brain in ___ months

We wish ___ the best,
___ Neurology 

 
Followup Instructions:
___